US09035051B1
6-Chloro-2-methyl-5-[2-(4-piperidyl)ethyl]pyrimidin-4-amine, hydrochloride salt
Dissolve tert-butyl 4-[2-(4-amino-6-chloro-2-methyl-pyrimidin-5-yl)ethyl]piperidine-1-carboxylate (29.00 g, 81.72 mmol) in 1,4-dioxane (145 mL) and add 4M hydrogen chloride in 1,4-dioxane (204.2 mL, 817.1 mmol). Stir the solution for 18 h at RT. Concentrate the mixture under reduced pressure, slurry in diethyl ether (250 mL), filter, and dry the resultant solid under vacuum to give the title compound as a crude white solid (29 g). LC-ES/MS m/z (35Cl/37Cl) 255.2/257.2 (M+1).

reactant | tert-butyl 4-[2-(4-amino-6-chloro-2-methyl-pyrimidin-5-yl)ethyl]piperidine-1-carboxylate | 81.72 mmol, 29.00 g | NC1=NC(=NC(=C1CCC1CCN(CC1)C(=O)OC(C)(C)C)Cl)C | C17H27ClN4O2
reactant | hydrogen chloride | 4M | Cl | ClH
solvent | 1,4-dioxane | 145 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 817.1 mmol, 204.2 mL | O1CCOCC1 | C4H8O2
product | 6-Chloro-2-methyl-5-[2-(4-piperidyl)ethyl]pyrimidin-4-amine, hydrochloride salt | Cl.ClC1=C(C(=NC(=N1)C)N)CCC1CCNCC1 | InChI=1S/C12H19ClN4.ClH/c1-8-16-11(13)10(12(14)17-8)3-2-9-4-6-15-7-5-9;/h9,15H,2-7H2,1H3,(H2,14,16,17);1H
